US05262420
Preparation of 1-(2-fluorophenyl)-3-(4-pyridyl)-butane
1.0 g (9.35 mmol) of 4-ethylpyridine and 1.90 g (9.35 mmol) of 2-fluorophenethyl bromide were reacted in the same manner as in Example 1. The reaction product was purified, to obtain 0.74 g of desired compound (yield: 39.2%).

reactant | 4-ethylpyridine | 9.35 mmol, 1.0 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | 2-fluorophenethyl bromide | 9.35 mmol, 1.90 g | FC1=C(CCBr)C=CC=C1 | C8H8BrF
product | 1-(2-fluorophenyl)-3-(4-pyridyl)-butane | 0.74 g, yield: 39.2% | FC1=C(C=CC=C1)CCC(C)C1=CC=NC=C1 | C15H16FN
